// Generated for: spectre
// Generated on: Nov 12 10:09:13 2010
// Design library name: memr
// Design cell name: memr_array_if2_HVfet
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters Vmin=0 Vmax=1 atten=100m Vrefg=0.9 TDpre=2.5m Tperiod=200m \
    Vtp=7.5 Vtn=-7.5 vlim=100 gmemr=10u Cr=10n betap=1 betan=1 alpha=0 H=4 \
    Ib=100u Vth=0.5 Vsupply=3.3 Vref=0.9 Vlow=0.7 Vith=2 Vhigh=2.7 Vd=.03 \
    It=1p Ih=200p Iba3=1u Iba2=1u Iba1=1u

//****************************************************************
//*********    ATTENTION    **************************************
//****************************************************************
//SUBSTITUTE by your files to vendor MOS, RESISTOR AND CAPACITOR models
include "<YOUR VENDOR FILES HERE>"
include "<YOUR VENDOR FILES HERE>"
include "<YOUR VENDOR FILES HERE>"
include ...
//modnh is high voltage nmos model
//cpoly is poly capacitor
//pd is diode model
//modn is normal nmos
//modp is normal pmos 
//****************************************************************

// Library name: memr
// Cell name: fe_fet
// View name: schematic
subckt fe_fet B D E G S
parameters _par0 Einit x1 y1 x2 y2 x3 y3 x4 y4
    MN0 (D net38 S B) modnh w=10u l=10u nrd=0.05 nrs=0.05 ad=8.5e-12 \
        as=8.5e-12 pd=11.7u ps=11.7u m=1
    V3 (net034 0) vsource dc=-10 type=dc
    V2 (net036 0) vsource dc=10 type=dc
    C0 (E 0) capacitor c=_par0 ic=Einit
    G1 (0 E G S) vccs m=gmemr pwl=[ x1 y1 x2 y2 x3 y3 x4 y4 ]
    G0 (0 E G D) vccs m=gmemr pwl=[ x1 y1 x2 y2 x3 y3 x4 y4 ]
    D1 (net064 E) nd area=100p perimeter=40u m=1
    D0 (E net068) nd area=100p perimeter=40u m=1
    E6 (net38 B net063 B) vcvs pwl=[ -9 -0.5 -0.23 0.15 0 0.2 0.2 0.6 8 \
        0.8 20 3.3 ]
    E0 (net063 G E 0) vcvs gain=0.5
    E5 (net064 0 net034 E) vcvs gain=100
    E4 (net068 0 net036 E) vcvs gain=100
ends fe_fet
// End of subcircuit definition.

// Library name: memr
// Cell name: R5switched
// View name: schematic
subckt R5switched B T subs sw1 sw2 sw3
    MN4 (T sw3 net061 subs) modnh w=12.5u l=3u nrd=0.04 nrs=0.04 ad=4e-11 \
        as=1.0625e-11 pd=18.9u ps=14.2u m=1
    MN2 (T sw1 net21 subs) modnh w=12.5u l=3u nrd=0.04 nrs=0.04 ad=4e-11 \
        as=1.0625e-11 pd=18.9u ps=14.2u m=1
    MN0 (T sw2 net24 subs) modnh w=12.5u l=3u nrd=0.04 nrs=0.04 ad=4e-11 \
        as=1.0625e-11 pd=18.9u ps=14.2u m=1
    R0 (net21 B) rpolyh w=1u l=113.35u m=1
    R1 (net24 B) rpolyh w=1u l=46.65u m=1
    R2 (net061 B) rpolyh w=1u l=13.35u m=1
ends R5switched
// End of subcircuit definition.

// Library name: memr
// Cell name: hv_opamp
// View name: schematic
subckt hv_opamp Ib VddH subs sw1 sw2 sw3 vinm vinp vout Vdd
    C0 (net50 vout) cpoly area=1.138e-09 perimeter=247.6u m=1
    D0 (net79 Vdd) pd area=100p perimeter=40u m=1
    I3 (vout net24 subs sw1 sw2 sw3) R5switched
    I0 (net79 net12 subs sw1 sw2 sw3) R5switched
    I1 (net41 net62 subs sw1 sw2 sw3) R5switched
    MN3 (vout net50 subs subs) modnh w=50u l=3u nrd=0.01 nrs=0.01 \
        ad=1.6e-10 as=4.25e-11 pd=56.4u ps=51.7u m=1
    MN5 (net41 Ib subs subs) modn w=10u l=3u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MN6 (Ib Ib subs subs) modn w=10u l=3u as=8.5e-12 ad=8.5e-12 ps=11.7u \
        pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP1 (net50 net39 subs subs) modn w=10u l=3u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP0 (net39 net39 subs subs) modn w=10u l=3u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP5 (net24 net62 VddH VddH) modp w=25u l=1u as=2.125e-11 ad=2.125e-11 \
        ps=26.7u pd=26.7u nrd=0.02 nrs=0.02 ng=1
    MP3 (net62 net62 VddH VddH) modp w=10u l=1u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MP2 (net12 net62 VddH VddH) modp w=10u l=1u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MN1 (net50 vinp net79 net79) modp w=10u l=1u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
    MN0 (net39 vinm net79 net79) modp w=10u l=1u as=8.5e-12 ad=8.5e-12 \
        ps=11.7u pd=11.7u nrd=0.05 nrs=0.05 ng=1
ends hv_opamp
// End of subcircuit definition.

// Library name: memr
// Cell name: hv
// View name: schematic
subckt hv in out Vdd VddH sw1 sw2 sw3
    I0 (net25 VddH 0 sw1 sw2 sw3 net35 in out Vdd) hv_opamp
    V0 (net30 0) vsource dc=Vrefg type=dc
    R1 (net35 out) resistor r=(H-1)*1000K
    R0 (net35 net30) resistor r=1000K
    I4 (0 net25) isource dc=Ib type=dc
    C0 (out 0) capacitor c=10p
ends hv
// End of subcircuit definition.

// Library name: Frequent_Cells
// Cell name: ota_p
// View name: schematic
subckt ota_p gnd_ana out subs vb vdd_ana vn vp well
parameters wn ln wb lb wp lp
    M4 (net28 net28 gnd_ana subs) modn w=wn l=ln as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    M3 (out net28 gnd_ana subs) modn w=wn l=ln as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    M2_0 (net062 vb vdd_ana well) modp w=wb l=lb as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    M2_1 (net062 vb vdd_ana well) modp w=wb l=lb as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    M1 (out vn net062 well) modp w=wp l=lp as=1.1e-11 ad=1.1e-11 ps=12.2u \
        pd=12.2u nrd=0.06 nrs=0.06 ng=1
    M0 (net28 vp net062 well) modp w=wp l=lp as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
ends ota_p
// End of subcircuit definition.

// Library name: Frequent_Cells
// Cell name: invp
// View name: schematic
subckt invp bulk gnd in out vdd well
parameters wp=1u lp=0.3u wn=1u ln=0.3u
    M8 (out in vdd well) modp w=wp l=lp as=1.1e-12 ad=1.1e-12 ps=3.2u \
        pd=3.2u nrd=0.6 nrs=0.6 ng=1
    M9 (out in gnd bulk) modn w=wn l=ln as=1.1e-12 ad=1.1e-12 ps=3.2u \
        pd=3.2u nrd=0.6 nrs=0.6 ng=1
ends invp
// End of subcircuit definition.

// Library name: memr
// Cell name: triggered_spike
// View name: schematic
subckt triggered_spike vin vout vsw
    V1 (net090 0) vsource dc=0 type=pulse val0=0 val1=3.3 period=100 \
        delay=0 rise=1p fall=1p width=100n
    I63 (0 net0193 0 net080 vdd! vin net0214 vdd!) ota_p wn=.3u ln=1u \
        wb=.3u lb=1u wp=.3u lp=1u
    I73 (0 net0167 0 net0221 vdd! net0167 net099 vdd!) ota_p wn=.3u ln=1u \
        wb=.3u lb=1u wp=.3u lp=1u
    I65 (0 net083 0 net095 vdd! net0204 net099 vdd!) ota_p wn=.3u ln=1u \
        wb=.3u lb=1u wp=.3u lp=1u
    MP18 (net0153 vsw net0149 vdd!) modp w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP16 (net091 net29 net087 vdd!) modp w=5u l=0.35u as=4.25e-12 \
        ad=4.25e-12 ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MP13 (net0119 net0119 net0150 vdd!) modp w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP17 (net085 net082 net087 vdd!) modp w=5u l=0.35u as=4.25e-12 \
        ad=4.25e-12 ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MP22 (net0221 net0221 vdd! vdd!) modp w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP20 (net095 net095 vdd! vdd!) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP15 (net0160 net15 net091 vdd!) modp w=0.8u l=0.35u as=6.8e-13 \
        ad=6.8e-13 ps=2.5u pd=2.5u nrd=0.625 nrs=0.625 ng=1
    MP12 (net099 net0119 net0150 vdd!) modp w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP2 (vout net15 net21 vdd!) modp w=0.8u l=0.35u as=6.8e-13 ad=6.8e-13 \
        ps=2.5u pd=2.5u nrd=0.625 nrs=0.625 ng=1
    MP1 (net21 net29 net3 vdd!) modp w=5u l=0.35u as=4.25e-12 ad=4.25e-12 \
        ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MN1 (net29 net15 net12 vdd!) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP19 (net080 net080 vdd! vdd!) modp w=1u l=0.35u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MP0 (net20 net6 net3 vdd!) modp w=5u l=0.35u as=4.25e-12 ad=4.25e-12 \
        ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    I61 (0 0 vsw net0231 vdd! vdd!) invp wp=2u lp=0.3u wn=2u ln=0.3u
    I71 (0 0 net0193 net0153 vdd! vdd!) invp wp=1u lp=0.3u wn=1u ln=0.3u
    I58 (0 0 net15 net0149 vdd! vdd!) invp wp=.8u lp=2u wn=.8u ln=2u
    I68 (0 0 net083 vsw vdd! vdd!) invp wp=1u lp=0.3u wn=1u ln=0.3u
    I3 (0 0 net0149 net15 vdd! vdd!) invp wp=2u lp=0.3u wn=2u ln=0.3u
    MN21 (net0149 net090 0 0) modn w=10u l=0.35u as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    MN16 (net0160 net085 net0159 0) modn w=5u l=0.35u as=4.25e-12 \
        ad=4.25e-12 ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MN17 (net085 net085 net0159 0) modn w=5u l=0.35u as=4.25e-12 \
        ad=4.25e-12 ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MN14 (net099 net0160 net0146 0) modn w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MN3 (vout net20 net0167 0) modn w=5u l=0.35u as=4.25e-12 ad=4.25e-12 \
        ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MN2 (net20 net20 net0167 0) modn w=5u l=0.35u as=4.25e-12 ad=4.25e-12 \
        ps=6.7u pd=6.7u nrd=0.1 nrs=0.1 ng=1
    MP21 (net0153 net0231 net0149 0) modn w=1u l=0.35u as=8.5e-13 \
        ad=8.5e-13 ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
    MN0 (net29 net15 0 0) modn w=10u l=0.35u as=1.1e-11 ad=1.1e-11 \
        ps=12.2u pd=12.2u nrd=0.06 nrs=0.06 ng=1
    I28 (net080 0) isource dc=Iba1 type=dc
    I29 (net095 0) isource dc=Iba2 type=dc
    I27 (net0119 0) isource dc=It type=dc
    I30 (net0221 0) isource dc=Iba3 type=dc
    I0 (vdd! net12) isource dc=Ih type=dc
    V19 (net0204 0) vsource dc=Vrefg-Vd type=dc
    V16 (net0159 0) vsource dc=Vlow type=dc
    V14 (net087 net082) vsource dc=Vth type=dc
    V15 (net087 0) vsource dc=Vhigh type=dc
    V12 (net0150 0) vsource dc=Vrefg type=dc
    V11 (net0146 0) vsource dc=Vlow type=dc
    V4 (net3 net6) vsource dc=Vth type=dc
    V3 (net3 0) vsource dc=Vhigh type=dc
    V0 (net0214 0) vsource dc=Vith type=dc
    C3 (net099 0) capacitor c=100f
    C0 (net29 0) capacitor c=100f
ends triggered_spike
// End of subcircuit definition.

// Library name: memr
// Cell name: memr_array_if2_HVfet
// View name: schematic
I52 (0 vm1 r41 vo4 net0307) fe_fet _par0=Cr Einit=0 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I51 (0 vm3 r43 vo4 net0307) fe_fet _par0=Cr Einit=2 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I50 (0 vm2 r42 vo4 net0307) fe_fet _par0=Cr Einit=1 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I47 (0 vm4 r44 vo4 net0307) fe_fet _par0=Cr Einit=3 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I42 (0 vm4 r34 vo3 net072) fe_fet _par0=Cr Einit=3 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I41 (0 vm2 r32 vo3 net072) fe_fet _par0=Cr Einit=5 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I40 (0 vm3 r33 vo3 net072) fe_fet _par0=Cr Einit=4 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I39 (0 vm1 r31 vo3 net072) fe_fet _par0=Cr Einit=6 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I31 (0 vm4 r24 vo2 net077) fe_fet _par0=Cr Einit=-2 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I32 (0 vm2 r22 vo2 net077) fe_fet _par0=Cr Einit=-1 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I33 (0 vm3 r23 vo2 net077) fe_fet _par0=Cr Einit=-3 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I34 (0 vm1 r21 vo2 net077) fe_fet _par0=Cr Einit=4 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I17 (0 vm4 r14 vo1 net064) fe_fet _par0=Cr Einit=-2 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I15 (0 vm2 r12 vo1 net064) fe_fet _par0=Cr Einit=0 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I16 (0 vm3 r13 vo1 net064) fe_fet _par0=Cr Einit=3 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I0 (0 vm1 r11 vo1 net064) fe_fet _par0=Cr Einit=-2 x1=-vlim \
        y1=alpha*Vtn-betan*(vlim-Vtn) x2=Vtn y2=alpha*Vtn x3=Vtp \
        y3=alpha*Vtp x4=vlim y4=alpha*Vtp+betap*(vlim-Vtp)
I53 (net0155 vo4 vdd! VddH VddH VddH 0) hv
I43 (net0158 vo3 vdd! VddH VddH VddH 0) hv
I35 (net0161 vo2 vdd! VddH VddH VddH 0) hv
I28 (net070 vo1 vdd! VddH VddH VddH 0) hv
MN5 (net0139 net0138 net0307 0) modn w=1u l=1u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
MN4 (net0143 net0142 net072 0) modn w=1u l=1u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
MN3 (net0147 net0146 net077 0) modn w=1u l=1u as=8.5e-13 ad=8.5e-13 \
        ps=2.7u pd=2.7u nrd=0.5 nrs=0.5 ng=1
MN0 (net028 net021 net064 0) modn w=1u l=1u as=8.5e-13 ad=8.5e-13 ps=2.7u \
        pd=2.7u nrd=0.5 nrs=0.5 ng=1
I54 (net0139 net0155 net0138) triggered_spike
I44 (net0143 net0158 net0142) triggered_spike
I36 (net0147 net0161 net0146) triggered_spike
I24 (net028 net070 net021) triggered_spike
C3 (net0307 net0139) capacitor c=500p ic=0
C2 (net072 net0143) capacitor c=500p ic=0
C1 (net077 net0147) capacitor c=500p ic=0
C0 (net064 net028) capacitor c=500p ic=0
E3 (net0139 0 net0196 net0307) vcvs gain=1000.0
E2 (net0143 0 net0200 net072) vcvs gain=1000.0
E1 (net0147 0 net0202 net077) vcvs gain=1000.0
E0 (net028 0 net069 net064) vcvs gain=1000.0
V14 (vm4 0) vsource type=pwl delay=TDpre+160m pwlperiod=3*Tperiod wave=[ 0 \
        Vref 100.0u 8 1m 8 1.1m 200.0m 50m Vref ]
V17 (vm3 0) vsource type=pwl delay=TDpre+120m pwlperiod=2*Tperiod wave=[ 0 \
        Vref 100.0u 8 1m 8 1.1m 200.0m 50m Vref ]
V11 (vm1 0) vsource type=pwl delay=TDpre pwlperiod=Tperiod wave=[ 0 Vref \
        100.0u 8 2.8m 8 2.9m 200.0m 44.9m Vref ]
V13 (vm2 0) vsource type=pwl delay=TDpre+7m pwlperiod=Tperiod wave=[ 0 \
        Vref 100.0u 8 2.8m 8 2.9m 200.0m 44.9m Vref ]
V20 (net0200 0) vsource dc=Vref type=dc
V12 (net0196 0) vsource dc=Vref type=dc
V8 (net0202 0) vsource dc=Vref type=dc
V7 (VddH 0) vsource dc=H*Vsupply type=dc
V6 (net069 0) vsource dc=Vref type=dc
V9 (vdd! 0) vsource dc=Vsupply type=dc
ic I24.net0149=0E 
simulatorOptions options reltol=100e-6 vabstol=1e-6 iabstol=1e-14 temp=27 \
    tnom=27 homotopy=all limit=delta scalem=1.0 scale=1.0 \
    compatible=spice2 gmin=1e-14 rforce=1 maxnotes=5 maxwarns=5 digits=5 \
    cols=80 pivrel=1e-3 sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=50 errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
save vm1 vm2 vm3 vm4 vo1 net064 r14 r12 r11 r13 r24 r22 r21 r23 r33 r34 \
    r32 r31 r43 r41 r42 r44 net077 vo2 net072 vo3 vo4 net0307 net021 \
    net028 net0146 net0147 net0142 net0143 net0138 net0139 net0161 net070 \
    net0158 net0155 
